US03956307
1. 2-(Methoxycarbonylamino)-benzimidazole-1-carboximidic acid (3-methylphenyl) ester
To a suspension of 9.56 g. (0.05 mole) 2-(methoxycarbonylamino)-benzimidazole in 300 ml chloroform a solution of 7.19 g (0.054 mole) 3-methylphenyl cyanate in 20 ml chloroform is added in drops while stirring at 20°C. The reaction mixture is stirred for 5 hours at room temperature and then filtered. The clear filtrate is concentrated under vacuum until dry. The colorless crystalline residue is treated with ether.

reactant | 2-(methoxycarbonylamino)-benzimidazole | 0.05 mole | COC(=O)NC=1NC2=C(N1)C=CC=C2 | C9H9N3O2
reactant | 3-methylphenyl cyanate | 0.054 mole, 7.19 g | CC=1C=C(C=CC1)OC#N | C8H7NO
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(Methoxycarbonylamino)-benzimidazole-1-carboximidic acid (3-methylphenyl) ester | CC=1C=C(C=CC1)OC(=N)N1C(=NC2=C1C=CC=C2)NC(=O)OC | C17H16N4O3
